US07622492B2
A solution of di-tert-butyl-dicarbonate (2.55 g, 11.6 mmol) in methanol (20 mL) was cooled to about 2° C. and added dropwise to a solution of 2-trifluoromethyl-phenyl-hydrazine (2.00 g, 11.4 mmol) in methanol (20 mL). The solution was allowed to stir overnight at room temperature. The solvent was evaporated to give N′-(2-trifluoromethyl-phenyl)-hydrazinecarboxylic acid tert-butyl ester (3.14 g, 100%) as a yellow solid.

reactant | di-tert-butyl-dicarbonate | 11.6 mmol, 2.55 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-trifluoromethyl-phenyl-hydrazine | 11.4 mmol, 2.00 g | FC(C1=C(C=CC=C1)NN)(F)F | C7H7F3N2
solvent | methanol | 20 mL | CO | CH4O
solvent | methanol | 20 mL | CO | CH4O
product | N′-(2-trifluoromethyl-phenyl)-hydrazinecarboxylic acid tert-butyl ester | 3.14 g, 100% | C(C)(C)(C)OC(=O)NNC1=C(C=CC=C1)C(F)(F)F | C12H15F3N2O2
